US20010053785A1
(2S)-2-[4′-(2-benzyl-benzofuran-3-yl)-biphenyl-4-yloxy]-4-phenyl-butyric acid
The title compound was prepared from 4′-(2-benzyl-benzofuran-3-yl)-biphenyl-4-ol, and (R)-(−)-2-hydroxy-4-phenylbutyric acid methyl ester, in substantially the same manner, as described in Example 1, steps g-h , and was obtained as a white solid, mp 152-154° C.; MS m/e 537 (M−H)+;

reactant | 4′-(2-benzyl-benzofuran-3-yl)-biphenyl-4-ol | C(C1=CC=CC=C1)C=1OC2=C(C1C1=CC=C(C=C1)C1=CC=C(C=C1)O)C=CC=C2 | C27H20O2
reactant | (R)-(−)-2-hydroxy-4-phenylbutyric acid methyl ester | COC([C@@H](CCC1=CC=CC=C1)O)=O | C11H14O3
product | (2S)-2-[4′-(2-benzyl-benzofuran-3-yl)-biphenyl-4-yloxy]-4-phenyl-butyric acid | C(C1=CC=CC=C1)C=1OC2=C(C1C1=CC=C(C=C1)C1=CC=C(C=C1)O[C@H](C(=O)O)CCC1=CC=CC=C1)C=CC=C2 | C37H30O4
